US07294625B2
4-(2-Cyclopropylcarbonylaminopyridin-4-yl)-3-(4-fluorophenyl)-1-([1,2,4]triazolo[4,3-b]pyridazin-6-yl)-1H-pyrazole (Exemplary Compound No. 2-970)
The reaction was carried out in the same manner as in Example 9 except for using 200 mg (0.54 mmol) of 4-(2-aminopyridin-4-yl)-3-(4-fluorophenyl)-1-([1,2,4]triazolo-[4,3-b]pyridazin-6-yl)-1H-pyrazole obtained by the same reaction as in Example 8-2), and using 59.0 mg (0.56 mmol) of cyclopropylcarbonyl chloride in place of acetic anhydride to obtain 88.6 mg of the title compound as a white powder. (Yield: 37%)

reactant | 4-(2-aminopyridin-4-yl)-3-(4-fluorophenyl)-1-([1,2,4]triazolo-[4,3-b]pyridazin-6-yl)-1H-pyrazole | 0.54 mmol, 200 mg | NC1=NC=CC(=C1)C=1C(=NN(C1)C=1C=CC=2N(N1)C=NN2)C2=CC=C(C=C2)F | C19H13FN8
reactant | cyclopropylcarbonyl chloride | 0.56 mmol, 59.0 mg | C1(CC1)C(=O)Cl | C4H5ClO
product | 4-(2-Cyclopropylcarbonylaminopyridin-4-yl)-3-(4-fluorophenyl)-1-([1,2,4]triazolo[4,3-b]pyridazin-6-yl)-1H-pyrazole | 88.6 mg, Yield: 37% | C1(CC1)C(=O)NC1=NC=CC(=C1)C=1C(=NN(C1)C=1C=CC=2N(N1)C=NN2)C2=CC=C(C=C2)F | C23H17FN8O
